US04886794
5-(Chloromethyl)-3-methyl-2-oxazolidinone
A solution of 64.5 g (0.5 mole) of 1,3-dichloro-2-propanol in 200 ml of methylene chloride was treated with 28.5 g (0.5 mole) of methyl isocyanate and a few drops of triethylamine and allowed to stir at ambient temperature overnight. The solution was concentrated and the residue was dissolved in 200 ml of 95% ethanol and treated with a solution of 33.6 g (0.6 mole) of potassium hydroxide in 300 ml of 95% ethanol. The mixture was stirred at ambient temperature for 3.5 hr and then concentrated. The residue was partitioned between 250 ml of benzene and 100 ml of water. The organic layer was washed successively with 50 ml of a 2N hydrochloric acid solution and 100 ml of brine, dried over anhydrous sodium sulfate and concentrated to give 50.5 g of oil as residue. The oil was subjected to vacuum distillation to yield 36.9 g (49%) of clear oil, b.p. 131°-133° C. at 0.3 mm.

reactant | 1,3-dichloro-2-propanol | 0.5 mole, 64.5 g | ClCC(CCl)O | C3H6Cl2O
reactant | methyl isocyanate | 0.5 mole, 28.5 g | CN=C=O | C2H3NO
reactant | potassium hydroxide | 0.6 mole, 33.6 g | [OH-].[K+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5-(Chloromethyl)-3-methyl-2-oxazolidinone | 50.5 g | ClCC1CN(C(O1)=O)C | C5H8ClNO2
